* C:\From Compaq\My Documents\Hobby\Speakers\Designs\SpeakerSPICEModels\PortedBox.asc
Vin N001 0 AC 2.828 0
Re_ P001 In {Re}
Le_ N002 P001 {Le}
V_Isensor N004 0 AC 0
H§BLu N003 N004 V_uSensor {Bl}
H§Bli N007 0 V_ISensor {BL}
L§Mmd_ N008 N007 {Mmd}
Rms_ N010 N008 {Rms}
Cms_ N012 N010 {Cms}
E§SdPd N012 N013 Pf Pb {Sd}
V_uSensor N013 0 AC 0
F§Sdu Pb Pf V_uSensor {Sd}
Ra1_ Pf N017 {Ra1}
Ra2_ N017 N018 {Ra2}
Ca1_ Pf N017 {Ca1}
L§Ma1_ Pf N019 {Ma1}
Lep_ N003 N002 {Lep}
Rep_ N002 N003 {Rep}
Rsource N001 In 0.1
V_WVUSensor N018 0 AC 0
B§AcousticOutput 0 0 I=9390.14*I(V_VUSensor) laplace=s
B§Cone_Excursion_mm 0 0 I=2.828*1000*I(V_uSensor) laplace=1/s
L§Mab_ Pb N014 {Mab}
Cab_ N016 N014 {Cab}
RairLeak_ N014 N015 {RairLeak}
V_WNearVUSensor N019 N018 AC 0
V_VUSensor 0 N016 AC 0
V_PVUSensor N011 0 AC 0
V_PNearVUSensor N006 N011 AC 0
L§Map_ N014 N005 {Map}
Ca1P_ N005 N009 {Ca1P}
L§Ma1P_ N005 N006 {Ma1P}
Ra1P_ N005 N009 {Ra1P}
Ra2P_ N009 N011 {Ra2P}
B§PortOutput 0 0 I=9390.14*I(V_PVUSensor) laplace=s
B§WooferOutput 0 0 I=9390.14*I(V_WVUSensor) laplace=s
F§kpUw N006 N005 V_WNearVUSensor {3*pi*RadP/(16*DistW_P)}
F§kwUp N019 Pf V_PNearVUSensor {3*pi*Rad/(16*DistW_P)}
B§LeakOutput 0 0 I=9390.14*I(V_VULeak) laplace=s
V_VULeak N015 0 AC 0
.ac oct 40 10 2000
.param Bl={sqrt(Re*sqrt(Mms/Cms)/Qe)}
.param Mms=17.7e-3
.param Mmd={Mms-(16*Sd*Sd*1.18/(3*rad*pi*pi))}
.param Sd=134e-4
.param rad={sqrt(Sd/pi)}
.param Fs=52.3
.param Rms={sqrt(Mms/Cms)/Qms}
.param Cms={1/(pow(Fs*2*pi,2)*Mms)}
.param Qms=2.79
.param Qe=0.5
.param Re=5.8
.param Le=0.2m
.param Lep=0.1m
.param Rep=5
.param Ma1={8*1.18/(3*pi*pi*rad)}
.param Ra1={0.441*1.18*345/Sd}
.param Ra2={1.18*345/Sd}
.param Ca1={5.94*pow(rad,3)/(1.18*345*345)}
* Calculated parameters:
* Edit the values of the following driver parameters:\n(Le, Lep and Rep are optional)
* Outputs to be plotted:\n(Vc impedance is V(in)/I(Re_)\nand group delay is plotted\nat AcousticOutput's plot
* Edit the box parameters (m3):
.param Vb=14e-3
.param Cab={Vb/(1.18*345*345)}
.param RairLeak={QL/(2*pi*Fb*Cab)}
.param Ma1p={8*1.18/(3*pi*pi*RadP)}
.param Map={(1/(pow(2*pi*Fb,2)*Cab))-Ma1p}
.param Ra2P={1.18*345/(pi*RadP*RadP)}
.param Ra1P={0.441*1.18*345/(pi*RadP*RadP)}
.param Ca1P={5.94*pow(RadP,3)/(1.18*345*345)}
.param Ql=7
.param RadP=2.5e-2
.param Vas={1.18*pow(345*Sd,2)*Cms}
.param Mab=0.65*2.0/(pi*rad)
* Use following step to try step changing box params:\n.step param Vb 10e-3 20e-3 4e-3
* For Mab, use 0.65*2...  to account for some filling used:
.measure PortLengthINcms Param pow(10, 5*(((Map*pi*radp*radp/1.18)-(0.6132*sqrt(radp*radp)))))
.param Fb=50
.param DistW_P=0.5
* Distance between port and woofer opening, for mutual radiation.\nMake it very high for ignoring this: (as everything else in meters):
* Printed Values at Output Log:
.backanno
.end
